US05093370
1,4-Bis[6-(1-methyl-1-piperidinio)hexyl]benzene dibromide
First, 0.28 g of 1,4-bis(6-bromohexyl)benzene and 0.5 g of N-methylpiperidine were dissolved in 4 ml of absolute ethanol, and the mixture was refluxed for 2 hours and evaporated under a reduced pressure to remove the solvent. After adding acetone and then ethanol, the whole was allowed to stand in a freezer for 3 days. The resulting crystal was collected by filtration, washed with acetone and dried under a reduced pressure to obtain 0.125 g of the title compound as a colorless crystal.

reactant | 1,4-bis(6-bromohexyl)benzene | 0.28 g | BrCCCCCCC1=CC=C(C=C1)CCCCCCBr | C18H28Br2
reactant | N-methylpiperidine | 0.5 g | CN1CCCCC1 | C6H13N
solvent | ethanol | 4 ml | C(C)O | C2H6O
product | 1,4-Bis[6-(1-methyl-1-piperidinio)hexyl]benzene dibromide | 0.125 g | [Br-].[Br-].C[N+]1(CCCCC1)CCCCCCC1=CC=C(C=C1)CCCCCC[N+]1(CCCCC1)C | InChI=1S/C30H54N2.2BrH/c1-31(25-13-7-14-26-31)23-11-5-3-9-17-29-19-21-30(22-20-29)18-10-4-6-12-24-32(2)27-15-8-16-28-32;;/h19-22H,3-18,23-28H2,1-2H3;2*1H/q+2;;/p-2
